US07951838B2
A cooled solution (0° C.) of (S)-tert-butyl 3-(7-chlorobenzo[d][1,3]dioxol-5-yl)-1-oxo-1-(thiazol-2-yl)propan-2-ylcarbamate (4.220 g, 10 mmol) in EtOH (60 mL) was added dropwise via cannula to a cooled solution (−78° C.) of lithium tri-tert-butoxyaluminum hydride 1M in THF (21 ml, 21 mmol) in EtOH (40 mL). After stirring for 2 hours, the reaction mixture was quenched with 1N HCl and diluted with EtOAc. The organic layer was washed with water, saturated NaHCO3 solution, and brine. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The crude residue was crystallized from hot EtOH/water and the solid was collected yielding tert-butyl (1S,2S)-3-(7-chlorobenzo[d][1,3]dioxol-5-yl)-1-hydroxy-1-(thiazol-2-yl)propan-2-ylcarbamate (3.250 g, 77% yield) as a white solid.

reactant | (S)-tert-butyl 3-(7-chlorobenzo[d][1,3]dioxol-5-yl)-1-oxo-1-(thiazol-2-yl)propan-2-ylcarbamate | 10 mmol, 4.220 g | ClC1=CC(=CC2=C1OCO2)C[C@@H](C(C=2SC=CN2)=O)NC(OC(C)(C)C)=O | C18H19ClN2O5S
reactant | lithium tri-tert-butoxyaluminum hydride | 1M | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | THF | 21 mmol, 21 ml | C1CCOC1 | C4H8O
solvent | EtOH | 60 mL | CCO | C2H6O
solvent | EtOH | 40 mL | CCO | C2H6O
product | tert-butyl (1S,2S)-3-(7-chlorobenzo[d][1,3]dioxol-5-yl)-1-hydroxy-1-(thiazol-2-yl)propan-2-ylcarbamate | 3.250 g, 77% yield | ClC1=CC(=CC2=C1OCO2)C[C@@H]([C@@H](C=2SC=CN2)O)NC(OC(C)(C)C)=O | C18H21ClN2O5S
